US06821993B1
Thionyl chloride (2.6 g, 22.2 mmol) was added dropwise to a solution of 3-(3-pyridyl)-1-propanol (2.0 g, 14.6 mmol) in chloroform (10 ml) at 0° C. The solution was warmed to 25° C. and stirred 20 hrs. The solution was poured over ice and extracted to ethyl acetate. The organics were combined, dried (MgSO4), and concentrated, to yield 1.68 g of 1-chloro-3-(3-pyridyl)propane hydrochloride (68%) which was used without further purification. Potassium hexamethyldisilazane (0.5 M solution in THF, 1.92 mmol) was added to a solution of (1) (0.39 g, 1.6 mmol) in DMF (5 ml) at 0° C. with potassium iodide (0.16 mmol) and 18-c-6 (0.16 mmol). This mixture was warmed to 25° C. and stirred 1 hr, after which 1-chloro-3-(3pyridyl)propane was added dropwise, and the reaction stirred 20 hrs. The solution was cooled to 0° C., and neutralized with the dropwise addition of saturated NH4Cl (5 ml). The mixture was warmed to 25° C., diluted with saturated NH4Cl, and extracted with ethyl acetate. The organics were combined, dried (MgSO4), and concentrated. The residue was purified by column chromatography (silica gel, 65:36, pentane:ethyl acetate) to yield 0.073 g of product as clear oil (13%). 1H NMR (CDCl3): δ 0.86 (t, 3H); 1.28 (2 overlapping s's, 6H); 1.71 (m, 2H); 1.98 (overlaping m's, 5H); 2.59 (t, 2H); 2.73 (m, 1H); 3.38 (m, 1H); 3.75 (m, 2H); 3.89 (m, 2H); 7.21 (m, 1H); 7.49 (m, 1H); 8.45 (m, 2H).

reactant | Thionyl chloride | 22.2 mmol, 2.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(3-pyridyl)-1-propanol | 14.6 mmol, 2.0 g | N1=CC(=CC=C1)CCCO | C8H11NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-chloro-3-(3-pyridyl)propane hydrochloride | 1.68 g, 68% | Cl.ClCCCC=1C=NC=CC1 | InChI=1S/C8H10ClN.ClH/c9-5-1-3-8-4-2-6-10-7-8;/h2,4,6-7H,1,3,5H2;1H
